US08071592B2
(c) 7-Fluoro-1-(2-propen-1-yl)-2(1H)-quinolinone
To a suspension of 7-fluoro-2(1H)-quinolinone (1.53 g, 9.39 mmol) in DMF at 0° C. was added sodium hydride (0.83 g of a 60% w:w dispersion in oil, 20.65 mmol) and the reaction was allowed warm to rt over 0.5 h before addition of allyl iodide (1.91 ml, 20.65 mmol). The reaction was stirred at rt for a further 0.25 h before addition of water (100 ml). The aqueous phase was then extracted with 10% MeOH in DCM (3×200 ml) and the combined organic phases were dried, evaporated and the residue was subjected to column chromatography on silica gel using a 10% MeOH in DCM gradient to provide the desired compound (0.91 g, 48%). This material contained approximately 10% of the isomeric 5-fluoro-1-(2-propen-1-yl)-2(1H)-quinolinone.

reactant | 7-fluoro-2(1H)-quinolinone | 9.39 mmol, 1.53 g | FC1=CC=C2C=CC(NC2=C1)=O | C9H6FNO
reactant | sodium hydride | [H-].[Na+]
reactant | allyl iodide | 20.65 mmol, 1.91 ml | C(C=C)I | C3H5I
reactant | water | 100 ml | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 7-Fluoro-1-(2-propen-1-yl)-2(1H)-quinolinone | 0.91 g, 48% | FC1=CC=C2C=CC(N(C2=C1)CC=C)=O | C12H10FNO
